US05624601
Preparation of (trifluoromethylphenyl) trans-4-(4-(3-methylbutyl)-4-silacyclohexyl)benzoate
The general procedure of Example 3 was repeated using trifluoromethylphenol and 4-(4-phenyl-4-(3methylbutyl)-4-silacyclohexyl)benzoic acid, thereby obtaining the intended product.

reactant | trifluoromethylphenol | FC(F)(F)C1=C(C=CC=C1)O | C7H5F3O
reactant | 4-(4-phenyl-4-(3methylbutyl)-4-silacyclohexyl)benzoic acid | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1=CC=C(C(=O)O)C=C1)CCC(C)C | C23H30O2Si
product | (trifluoromethylphenyl) trans-4-(4-(3-methylbutyl)-4-silacyclohexyl)benzoate | CC(CC[Si@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OC2=C(C=CC=C2)C(F)(F)F)C=C1)C | C24H29F3O2Si
